US05455258
A mixture of N-carboethoxy-4-piperidone (88.6 g, 517.2 mmol), sodium cyanide (30.0 g, 612.1 mmol) in water (54 mL), ammonium chloride (34.0 g, 635.5 mmol) in water (72 mL), and ammonium hydroxide (76 ml) is heated to 60°-65° C. for 5 hours, and then stirred at room temperature overnight. The resulting solid is filtered off, dissolved in methylene chloride, and washed with a small amount of brine. The organic layer is dried (MgSO4), concentrated in vacuo to 1/2 volume, and triturated with hexane. The resulting precipate is collected by filtration and dried under vacuum, to give N-carboethoxy-4-amino-4-cyanopiperidine.

reactant | N-carboethoxy-4-piperidone | 517.2 mmol, 88.6 g | C(=O)(OCC)N1CCC(CC1)=O | C8H13NO3
reactant | sodium cyanide | 612.1 mmol, 30.0 g | [C-]#N.[Na+]
reactant | ammonium chloride | 635.5 mmol, 34.0 g | [Cl-].[NH4+]
reactant | ammonium hydroxide | 76 ml | [OH-].[NH4+]
solvent | water | 54 mL | O | H2O
solvent | water | 72 mL | O | H2O
product | N-carboethoxy-4-amino-4-cyanopiperidine | C(=O)(OCC)N1CCC(CC1)(C#N)N | C9H15N3O2
